US07601714B2
To a mixture of N4-(4-amino-cyclohexylmethyl)-5-nitro-N2-(2-trifluoromethoxy-benzyl)-pyrimidine-2,4-diamine (100 mg, 0.23 mmol) and 3-formyl-benzoic acid methyl ester (41 mg, 0.25 mmol) in DCM (1 mL) was added sodium triacetoxyborohydride (58 mg, 0.27 mmol). The mixture was stirred at room temperature for 18 h then quenched with excess water. The mixture was diluted with DCM and the organic layer separated and dried over Na2SO4. The solvent was removed in vacuo and the residue purified by column chromatography using an ISCO combi-flash cartridge (silica gel, DCM/MeOH) to afford 3-[(4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexylamino)-methyl]-benzoic acid methyl ester (76 mg, 57%), m/z 589 (M+1)+.

reactant | N4-(4-amino-cyclohexylmethyl)-5-nitro-N2-(2-trifluoromethoxy-benzyl)-pyrimidine-2,4-diamine | 0.23 mmol, 100 mg | NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | 3-formyl-benzoic acid methyl ester | 0.25 mmol, 41 mg | COC(C1=CC(=CC=C1)C=O)=O | C9H8O3
reactant | sodium triacetoxyborohydride | 0.27 mmol, 58 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-[(4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexylamino)-methyl]-benzoic acid methyl ester | 76 mg, 57% | COC(C1=CC(=CC=C1)CNC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F)=O | C28H31F3N6O5
